US08168815B2
Step 7: Methyl 3-((E)-2-{6-bromo-7-[(diethoxyphosphoryl)(difluoro)methyl]-2-naphthyl}ethenyl)benzoate
To a solution of diethyl{6-bromo-7-[(diethoxyphosphoryl)(difluoro)methyl]-2-naphthyl}methylphosphonate (190 mg), and methyl 3-formylbenzoate (60 mg) in degassed THF (5 mL) at −78° C. was added potassium tert-butoxide (0.35 mL of a 1M solution in THF) and the reaction mixture was stirred for 1 h at 0° C. The mixture was quenched with a saturated solution of NH4Cl, extracted with EtOAc, dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography eluting with 25% EtOAc/hexanes to afford the titled product.

reactant | diethyl{6-bromo-7-[(diethoxyphosphoryl)(difluoro)methyl]-2-naphthyl}methylphosphonate | 190 mg | C(C)OP(OCC)(=O)CC1=CC2=CC(=C(C=C2C=C1)Br)C(F)(F)P(=O)(OCC)OCC | C20H27BrF2O6P2
reactant | methyl 3-formylbenzoate | 60 mg | C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H8O3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl 3-((E)-2-{6-bromo-7-[(diethoxyphosphoryl)(difluoro)methyl]-2-naphthyl}ethenyl)benzoate | BrC=1C=C2C=CC(=CC2=CC1C(F)(F)P(=O)(OCC)OCC)/C=C/C=1C=C(C(=O)OC)C=CC1 | C25H24BrF2O5P
